US08003649B2
A mixture of 4-phenylazepane hydrochloride and 6-chloro-3-[chloro(difluoro)methyl]-[1,2,4]triazolo[4,3-b]pyridazine was allowed to react by an analogous method to Example 331 to give 3-[chloro(difluoro)methyl]-6-(4-phenylazepan-1-yl)[1,2,4]triazolo[4,3-b]pyridazine in 69% yield.

reactant | 4-phenylazepane hydrochloride | Cl.C1(=CC=CC=C1)C1CCNCCC1
reactant | 6-chloro-3-[chloro(difluoro)methyl]-[1,2,4]triazolo[4,3-b]pyridazine | ClC=1C=CC=2N(N1)C(=NN2)C(F)(F)Cl | C6H2Cl2F2N4
product | 3-[chloro(difluoro)methyl]-6-(4-phenylazepan-1-yl)[1,2,4]triazolo[4,3-b]pyridazine | 69% yield | ClC(C1=NN=C2N1N=C(C=C2)N2CCC(CCC2)C2=CC=CC=C2)(F)F | C18H18ClF2N5
